US05374375
2) Preparation of 4-acetoxy-l-(1-methylbutyloxycarbonyl)benzene (2)
4-Acetoxybenzoic acid (6.2 g) was added to 25 ml of thionyl chloride, and the reaction was conducted under reflux for 10 hours. After excess thionyl chloride was distilled off, 15 ml of pyridine and 90 ml of toluene were added. Two grams of optically active S-(+)-2-pentanol was added dropwise thereto. After the addition, the mixture was heated under reflux for 4 hours, left to cool and diluted with 500 ml of chloroform. The organic layer was washed with dilute hydrochloric acid, a 1N sodium hydroxide aqueous solution and water in this order, and dried with magnesium sulfate. Further, the solvent was evaporated to obtain 2.2 g of a final crude compound.

reactant | 4-Acetoxybenzoic acid | 6.2 g | C(C)(=O)OC1=CC=C(C(=O)O)C=C1 | C9H8O4
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-acetoxy-l-(1-methylbutyloxycarbonyl)benzene | 2.2 g | C(C)(=O)OC1=CC=C(C=C1)C(=O)OC(CCC)C | C14H18O4
